US05418248
N,N-Dimethyl-2-(2,5-dimethylthien-3-yl)imidazo[2,1-b]-benzothiazole-3-acetamide.
34 g (0.077 mole) of α-chloro-N,N-dimethyl-2-(2,5-dimethylthien-3-yl)imidazo[2,1-b]benzothiazole-3-acetamide hydrochloride in solution in 500 ml of dichloromethane are treated with 36.9 g (0.24 mole) of Rongalite®, while stirring the mixture at room temperature for 24 h. The organic phase is separated after settling has taken place, the solid residue is washed with dichloromethane, the organic phase is washed with a saturated sodium hydrogen carbonate solution and then with water, it is dried over sodium sulphate, the solvent is evaporated under reduced pressure and 22 g of solid are obtained. After recrystallization from ethanol and treatment with vegetable black, 17 g of pale yellow crystals are finally obtained. Melting point: 194°-195° C.

reactant | α-chloro-N,N-dimethyl-2-(2,5-dimethylthien-3-yl)imidazo[2,1-b]benzothiazole-3-acetamide hydrochloride | 0.077 mole, 34 g | Cl.ClC(C(=O)N(C)C)C1=C(N=C2SC3=C(N21)C=CC=C3)C3=C(SC(=C3)C)C
reactant | Rongalite | 0.24 mole, 36.9 g | C(O)S(=O)[O-].[Na+]
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | N,N-Dimethyl-2-(2,5-dimethylthien-3-yl)imidazo[2,1-b]-benzothiazole-3-acetamide | CN(C(CC1=C(N=C2SC3=C(N21)C=CC=C3)C3=C(SC(=C3)C)C)=O)C | C19H19N3OS2
